US06699879B1
2-Methylthioquinoline-4-carboxylic acid
2-Methylthioquinoline-4-carboxylic acid methyl ester (0.40 g) in methanol:2N sodium hydroxide (2:1, 45 ml) was heated at 60° C. until all solid had dissolved. Volume of solvent was reduced to (15 ml) at reduced pressure and acidified with 2N HCl (16 ml). The precipitated solid was separated by filtration and dried to give the title compound (0.39 g). 1H NMR δ: 2.68 (3H, s), 7.56 (1H, m), 7.75-7.80 (2H, m), 7.96 (1H, d, J=8.2 Hz), 8.55 (1H, d), 13.91 (1H, brs).

reactant | 2-Methylthioquinoline-4-carboxylic acid methyl ester | 0.40 g | COC(=S)C1=CC(=NC2=CC=CC=C12)C | C12H11NOS
reactant | sodium hydroxide | 2N, 45 ml | [OH-].[Na+]
reactant | HCl | 2N, 16 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-Methylthioquinoline-4-carboxylic acid | 0.39 g | CC1=NC2=CC=CC=C2C(=C1)C(=S)O | C11H9NOS
